US06090836
EXAMPLE 31 Step A: Preparation of Methyl-3,5-dimethylbenzoate
A solution of 3,5-dimethyl-4-hydroxybenzoic acid (1.0 g) in ether (5 mL) and methanol(5 mL) was treated with excess trimethylsilyldiazomethane. After stirring 30 min at room temperature the reaction was treated with magnesium sulfate, filtered and concentrated to a brown solid. The title compound was obtained by purification on silica gel to give a colorless solid (670 mg). NMR (CDCl3); δ 7.75 (s,2H), 3.85 (s,3H), 2.30 (s,6H).

reactant | 3,5-dimethyl-4-hydroxybenzoic acid | 1.0 g | CC=1C=C(C(=O)O)C=C(C1O)C | C9H10O3
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | methanol | 5 mL | CO | CH4O
product | Methyl-3,5-dimethylbenzoate | COC(C1=CC(=CC(=C1)C)C)=O | C10H12O2
